US09062070B2
To a cool solution of NaH (0.16 g, 3.9 mmol) in THF (40 mL) was added dropwise a solution of trimethylsulfonium iodide (0.91 g, 4.5 mmol) in DMSO (20 mL). The resulting mixture was stirred at 0° C. under N2 for 20 min. A solution of 4-formyl-2-methoxybenzonitrile (0.60 g, 3.72 mmol) in THF (20 mL) was added. The resulting reaction mixture was stirred at 0° C. under N2 for 1 hr, and then it was warmed gradually to room temperature and stirred at that temperature for 12 hr. The starting material was consumed as indicated by TLC (25% ethyl acetate/hexanes). The reaction mixture was cooled to 0° C. and quenched with dropwise addition of water. The mixture was extracted with ethyl acetate (2×70 mL). The combined organic layers were washed with water, brine, then dried (MgSO4) and filtered. The filtrate was concentrated in vacuo. The residue was purified via column chromatography (silica gel, 10-30% EtOAc-hexanes) to afford 2-methoxy-4-(oxiran-2-yl)benzonitrile: 1H NMR (CDCl3, 500 MHz) δ 7.57 (d, J=8 Hz, 1H), 6.99 (dd, J=1.1 Hz, J=1.2 Hz, 1H), 6.89 (s, 1H), 3.97 (s, 3H), 3.94-3.92 (m, 1H), 3.22 (dd, J=5.2, Hz, J=4.1 Hz, 1H), 2.77 (d, J=2.5 Hz, 1H); LC/MS: (IE, m/z) [M+1]+=176.33.

reactant | NaH | 3.9 mmol, 0.16 g | [H-].[Na+]
reactant | trimethylsulfonium iodide | 4.5 mmol, 0.91 g | [I-].C[S+](C)C
reactant | 4-formyl-2-methoxybenzonitrile | 3.72 mmol, 0.60 g | C(=O)C1=CC(=C(C#N)C=C1)OC | C9H7NO2
solvent | THF | 40 mL | C1CCOC1 | C4H8O
solvent | DMSO | 20 mL | CS(=O)C | C2H6OS
solvent | THF | 20 mL | C1CCOC1 | C4H8O
product | 2-methoxy-4-(oxiran-2-yl)benzonitrile | COC1=C(C#N)C=CC(=C1)C1OC1 | C10H9NO2
